US06013829
Stage e: (R)-2-acetylthiomethyl-3-phenylpropanoic acid (Ia R)
2.44 g (12.05 mmol) of diisopropyl azodicarboxylate are added dropwise, at 0° C., to a solution of 3.16 g (12.05 mmol) of triphenylphosphine in 30 ml of tetrahydrofuran. Once the addition is complete, the mixture is stirred for 30 minutes at this temperature. The reaction medium is cooled to -10° C. and a solution of 1.45 g (8.05 mmol) of (S)-2-benzyl-3-hydroxypropionic acid (X S) and 0.92 g (12.05 mmol) of thioacetic acid in 10 ml of tetrahydrofuran is added dropwise. Once the addition is complete, the mixture is stirred for one hour at -10° C. and for a further two hours at room temperature.

reactant | diisopropyl azodicarboxylate | 12.05 mmol, 2.44 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 12.05 mmol, 3.16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (S)-2-benzyl-3-hydroxypropionic acid | 8.05 mmol, 1.45 g | C(C1=CC=CC=C1)[C@H](C(=O)O)CO | C10H12O3
reactant | thioacetic acid | 12.05 mmol, 0.92 g | C(C)(=S)O | C2H4OS
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (R)-2-acetylthiomethyl-3-phenylpropanoic acid | C(C)(=O)SC[C@@H](C(=O)O)CC1=CC=CC=C1 | C12H14O3S
